US09085534B2
3{[(1-methyl-1,2,3,4-tetrahydroquinolin-4-yl)methyl]amino}pyridine-4-carboxylic acid
The title compound was prepared in 18% yield from 1-(1-methyl-1,2,3,4-tetrahydroquinolin-4-yl)methanamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 53. 1H NMR (400 MHz, DMSO-d6): δ 13.36 (br s, 1H), 8.35 (s, 1H), 7.83 (d, 1H, J=5.0 Hz), 7.72 (br s, 1H), 7.56 (d, 1H, J=5.0 Hz), 7.01-7.08 (m, 2H), 6.52-6.62 (m, 2H), 3.45-3.51 (m, 2H), 3.04-3.32 (m, 3H), 2.85 (s, 3H), 1.89-1.95 (m, 2H). [M+H] calc'd for C17H19N3O2, 298; found 298.

reactant | 1-(1-methyl-1,2,3,4-tetrahydroquinolin-4-yl)methanamine | CN1CCC(C2=CC=CC=C12)CN | C11H16N2
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3{[(1-methyl-1,2,3,4-tetrahydroquinolin-4-yl)methyl]amino}pyridine-4-carboxylic acid | 18% yield | CN1CCC(C2=CC=CC=C12)CNC=1C=NC=CC1C(=O)O | C17H19N3O2
